US04704390
The semicarbazone obtained above was reduced catalytically using 10% palladium on carbon in ethanol to yield a mixture of 6-hydroxyindole 38% yield, mp 124°-6° C., and 3-amino-4-methylphenol which were separated by column chromatography.

reactant | 3-amino-4-methylphenol | NC=1C=C(C=CC1C)O | C7H9NO
reactant | ethanol | C(C)O | C2H6O
catalyst | palladium on carbon | [Pd] | Pd
product | 6-hydroxyindole | 38% yield | OC1=CC=C2C=CNC2=C1 | C8H7NO
